US07576104B2
3-(2-Benzyloxy-ethylamino)-phthalic acid
3-(2-Benzyloxy-ethylamino)-phthalic acid dimethyl ester (2.50 g, 7.28 mmol) was treated in the same manner as described above for the synthesis of 3-(2-methoxy-ethylamino)-phthalic acid. The product of the reaction, which contained a mixture of diacid and monomethyl esters, was used without further purification.

reactant | 3-(2-Benzyloxy-ethylamino)-phthalic acid dimethyl ester | 7.28 mmol, 2.50 g | COC(C=1C(C(=O)OC)=C(C=CC1)NCCOCC1=CC=CC=C1)=O | C19H21NO5
reactant | 3-(2-methoxy-ethylamino)-phthalic acid | COCCNC1=C(C(C(=O)O)=CC=C1)C(=O)O | C11H13NO5
product | 3-(2-Benzyloxy-ethylamino)-phthalic acid | C(C1=CC=CC=C1)OCCNC1=C(C(C(=O)O)=CC=C1)C(=O)O | C17H17NO5
